US07626034B2
Ru(OCOCH3)2((S)-segphos)(45.0 mg, 0.543 mmol), methyl 2-(2-thenoyl)acetate (1.00 g, 5.428 mmol), ammonium acetate (0.418 g, 5.428 mmol) and methanol (5 mL) were placed in a 2.5 mL-stainless autoclave under atmosphere of nitrogen, and the mixture was stirred at 80° C. for 3 hours. The reaction mixture was cooled down to room temperature and further stirred under a hydrogen pressure of 3 MPa at 80° C. for 15 hours. After completion of the reaction, the solvent was removed by evaporation in vacuo and the residue was purified by silica gel chromatography (eluent hexane ethyl acetate/triethylamine=50/50/5) to give methyl (+)-3-amino-3-thiophen-2-yl-propionate (270 mg) as a colorless oil in 26.8% yield. The resulting methyl (+)-3-amino-3-thiophen-2-yl-propionate was converted into methyl 3-(4-nitrobenzoylamino)-3-thiophen-2-yl-propionate, and the enantiomeric excess of the product was found to be 95.7% ee by HPLC analysis using a SUMICHIRAL OA-4100 column (available from SUMIKA CHEMICAL ANALYSIS SERVICE LTD.).

reactant | methyl 2-(2-thenoyl)acetate | 5.428 mmol, 1.00 g | C1(=CC=CS1)C(=O)CC(=O)OC | C8H8O3S
reactant | ammonium acetate | 5.428 mmol, 0.418 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl (+)-3-amino-3-thiophen-2-yl-propionate | 270 mg, 26.8% yield | NC(CC(=O)OC)C=1SC=CC1 | C8H11NO2S
